US08378095B2
To a stirred mixture of 2-(4-bromophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.120 g, 0.4 mmol) and potassium carbonate (0.056 g, 0.4 mmol) in DMF (3 mL) was added N-acetylpiperazine (0.052 g, 0.4 mmol) and the resulting reaction mixture stirred at room temperature for 2 hours. The solvent was removed in vacuo. The residue was suspended in MeOH and purified by SPE using an MP-TsOH resin (1000 mg) cartridge to afford 4-((4-acetylpiperazin-1-yl)methyl)phenylboronic acid as an oil which was used without further purification. LCMS (1) Rt: 1.04 min; m/z (ES+) 263.

reactant | 2-(4-bromophenyl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.4 mmol, 0.120 g | BrC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C12H16BBrO2
reactant | potassium carbonate | 0.4 mmol, 0.056 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-acetylpiperazine | 0.4 mmol, 0.052 g | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 4-((4-acetylpiperazin-1-yl)methyl)phenylboronic acid | C(C)(=O)N1CCN(CC1)CC1=CC=C(C=C1)B(O)O | C13H19BN2O3
